datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.C[C:10]1=[C:11]([O-:12])CC[O:72][C:61]1=[O:62]>>C[C:10]1([CH:20]([N:21]=[P:22](C2=CC=CC=C2)(C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[C:11](=[O:12])CC[O:72][C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[C:84]1=[CH:83][CH:82]=[C:81]([CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1 10=20
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:12][C:11](=[CH:10]C)[O:62]CC>>CC[O+:12]=[C:11]([CH:10](C)[CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O:62]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Fe-2:11]2345(C#[O+])(C#[O+])[H:10]>>C1=CC=C([N-:21][C:20]([H:10])=[N:31]C2=CC=CC=C2)C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Fe-:11]2345(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].C1C[C:20](=[O:21])CCO1>>C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N+:12]2=[CH:11][CH2:10][C:20]1([O-:21])CCOCC1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].O=C(C1=CC=CC=C1)N1CC[N:14]2CCN(C(=O)C3=CC=CC=C3)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[CH:11]=[C:12]3N(C(=O)C4=CC=CC=C4)CC[N+:14]4=[C:13]3[C:62](=[CH:61]2)N(C(=O)C2=CC=CC=C2)CC4)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][CH:10]1CCCC[C:11]1=[N+:12]1CCCC1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"C[C:10]1=[C:11]([O-:12])CC[O:72][C:61]1=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C:10]1([CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C:11](=[O:12])CC[O:72][C:61]1=[O:62] 10,11=10,20;12=11,12"
"C[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1 10,11=10,20"
"C[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CCC[Si:11](CCC)(CCC)[H:10].N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CCC[Si+:11](CCC)CCC.N#C[CH:20]([H:10])[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[C:11](=[CH:10]/[C:61](C2=CC=CC=C2)=[O:62])[O-:12])C=C1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=CC=C([C:11]([CH:10]([CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:61](C2=CC=CC=C2)=[O:62])=[O:12])C=C1 10,11=10,20;12=11,12"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>C[C:71]1=[N:72][CH:62]=[CH:61][N:10]1[N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>C[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[C:71]2C=O)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10=20;20,21=21,22;22,23=23"
